US07947834B2
3.8 g of 4-(3,4-dihydroquinoxalin-1(2H)-yl)benzoic acid and 70 ml of methanol are introduced into a 250 ml round-bottomed flask equipped with a magnetic stirrer. 4.4 ml of 97% sulfuric acid are added dropwise and the reaction medium is stirred at ambient temperature for 18 h. The methanol is partially evaporated. The remaining solution is poured onto a water-plus-ice mixture, neutralized by slow addition of sodium hydrogencarbonate and extracted 3 times with ethyl acetate. The organic phases are combined, washed with water and with a saturated sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure. The residue is chromatographed on silica gel eluted with a gradient of ethyl acetate from 10% to 20% in heptane. 2.8 g of methyl 4-(3,4-dihydroquinoxalin-1(2H)-yl)benzoate are obtained.

reactant | 4-(3,4-dihydroquinoxalin-1(2H)-yl)benzoic acid | 3.8 g | N1(CCNC2=CC=CC=C12)C1=CC=C(C(=O)O)C=C1 | C15H14N2O2
reactant | sulfuric acid | 4.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 70 ml | CO | CH4O
product | methyl 4-(3,4-dihydroquinoxalin-1(2H)-yl)benzoate | 2.8 g | N1(CCNC2=CC=CC=C12)C1=CC=C(C(=O)OC)C=C1 | C16H16N2O2
